US09339480B2
Step 1: Synthesis of 5-(1,4-diazabicyclo[2.2.2]octanyl)-1-iodo pentane, Iodide Salt
1,4-diazabicyclo[2.2.2]octane is suspended in THF. Diiodopentane is added dropwise and the mixture is refluxed overnight. The reaction mixture is filtered.

reactant | 1,4-diazabicyclo[2.2.2]octane | N12CCN(CC1)CC2 | C6H12N2
reactant | Diiodopentane | IC(CC)(CC)I | C5H10I2
reactant | THF | C1CCOC1 | C4H8O
product | 5-(1,4-diazabicyclo[2.2.2]octanyl)-1-iodo pentane, Iodide Salt | [I-].N12C(CN(CC1)CC2)CCCCCI | InChI=1S/C11H21IN2.HI/c12-5-3-1-2-4-11-10-13-6-8-14(11)9-7-13;/h11H,1-10H2;1H/p-1
